US09029391B2
A solution of methyl [7-cyano-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate (17 mg, 0.039 mmol) in tetrahydrofuran (THF) (0.600 mL) and methanol (0.6 mL) was treated with LiOH (0.118 mL, 0.236 mmol) and stirred at 50° C. for 2 hours. Additional LiOH (300 uL) was added and the reaction was stirred at 50° C. for 4 h, and then cooled to rt overnight. The mixture was concentrated and purified with reverse phase chromatography (20-100% MeCN/H2O-0.1% TFA, 12 min) to afford [7-(aminocarbonyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetic acid (9.6 mg, 0.022 mmol, 56.0% yield) as white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.02 (s, 1 H), 8.22-8.10 (m, 1 H), 7.39-7.28 (m, 4 H), 7.25-7.15 (m, 1 H), 7.09-6.99 (m, 1 H), 5.39 (d, J=1.2 Hz, 1 H), 3.76 (s, 3 H), 2.38 (s, 3 H), 2.33 (s, 3 H), 1.08 (s, 4.5 H), 1.06 (s, 4.5 H); LCMS (m/z) ES+=437 (M+1).

reactant | methyl [7-cyano-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | 0.039 mmol, 17 mg | C(#N)C1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C26H28N2O4
reactant | LiOH | 0.236 mmol, 0.118 mL | [Li+].[OH-]
reactant | LiOH | 300 uL | [Li+].[OH-]
solvent | tetrahydrofuran | 0.600 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.6 mL | CO | CH4O
product | [7-(aminocarbonyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetic acid | 0.022 mmol, 9.6 mg, 56.0% yield | NC(=O)C1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)O)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28N2O5
